US20010027196A1
6-Amino-2-furan-2-yl-4-(2-phenylamino-ethylamino)-nicotinonitrile
From trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester and N-phenylethylenediamine in DME. ES-MS m/e (%): 320 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 6-Amino-2-furan-2-yl-4-(2-phenylamino-ethylamino)-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)NCCNC1=CC=CC=C1)C=1OC=CC1 | C18H17N5O
